US08349850B2
12.69 grams (0.14 mol) of diethylurea and 11.90 grams (0.14 mol) of cyanoacetic acid were heated in acetic anhydride at 60° C. for 3 hours, under dry atmosphere. Thereafter, the acetic anhydride and remaining cyanoacetic acid were evaporated, 5% sodium hydroxide was added and the mixture was stirred and cooled. 20 grams of 6-amino-1,3-diethyluracil were obtained as a precipitate. 11.8 grams of sodium nitrite in 70 ml water were then added while cooling and stirring and the solution was then acidified by adding 70 ml acetic acid. The mixture was stirred at room temperature for additional 2.5 hours. The resulting precipitate was filtered, washed with water, ethanol and finally ether so afford 10.1 grams of 6-amino-1,3-diethyl-5-nitrosouracil, as a violet product.

reactant | diethylurea | 0.14 mol, 12.69 grams | C(C)NC(NCC)=O | C5H12N2O
reactant | cyanoacetic acid | 0.14 mol, 11.90 grams | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1,3-diethyluracil | 20 grams | NC1=CC(N(C(N1CC)=O)CC)=O | C8H13N3O2
